US06627651B1
To methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.40 g) dissolved in methylene chloride (15 ml) were added 3-(2-propoxyethoxy)phenylboric acid (0.67 g) and molecular sieves 4A (0.8 g), and the resulting mixture was stirred for 5 minutes. Thereto were added cupric acetate (0.27 g) and triethylamine (1.04 ml), and the resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was filtered through celite, and the filtrate was washed with ethyl acetate. The resulting solution was evaporated under reduced pressure to remove the solvent, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/2) to obtain methyl 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.36 g).

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.40 g | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 3-(2-propoxyethoxy)phenylboric acid | 0.67 g | C(CC)OCCOC=1C=C(C=CC1)OB(O)O | C11H17BO5
reactant | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.36 g | C(CC)OCCOC=1C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC1 | C23H26O7S
